* C:\Users\natha\Documents\Studium\Juventus\Diplomarbeit\Nathophone_elec\simulations\LT8650S_DC2407A_adapted.asc
V1 IN 0 24 Rser=0.1
C11 0 N011 1n
R5 N016 0 15k
L2 N004 N005 10µ Rser=10m Ipk=9.5 Rser=0.0162 Cpar=0
R4 N007 0 56k
C13 N009 0 1µ
Rload2 OUT2 0 20.4
C2 N001 0 4.7µ V=50 Rser=50m
C1 N001 0 4.7µ V=50 Rser=50m
R3 N005 N007 1Meg
C7 N005 N007 4.7p
L1 N003 OUT1 1µ Rser=10m Ipk=4.9 Rser=0.014 Cpar=0
R2 N006 0 178K
Rload1 OUT1 0 5
R1 OUT1 N006 1Meg
C6 OUT1 N006 4.7p
C8 N005 0 47µ V=10 Irms=11.7 Rser=10m
C9 N005 0 47µ V=10 Irms=11.7 Rser=10m
C5 OUT1 0 47µ V=10 Irms=11.7 Rser=0.003
C4 OUT1 0 47µ V=10 Irms=11.7 Rser=0.003 Lser=0
XU1 N016 0 MP_01 N001 MP_02 MP_03 N001 MP_04 MP_05 MP_06 N001 PG_1 MP_07 PG_1 NC_08 N015 NC_09 NC_10 MP_11 N004 MP_12 N003 MP_13 NC_14 N009 0 N009 N006 N011 N012 N007 N010 LT8650S
C3 N010 N013 220p
R6 0 N013 14k
L3 N005 OUT2 150µ Rser=10m Ipk=6.5 Rser=0.355 Cpar=0
C10 OUT2 0 400µ V=10 Irms=11.7 Rser=20m
C12 0 N012 1n
R7 PG_1 OUT1 14k
L4 IN N001 1µ Rser=10m Ipk=9.5 Rser=0.05 Cpar=0
Rload3 N008 0 20.4
Rload4 N014 0 20.4
C14 N008 0 400µ V=10 Irms=11.7 Rser=20m
C15 N014 0 400µ V=10 Irms=11.7 Rser=20m
L5 N005 N008 150µ Rser=10m Ipk=6.5 Rser=0.355 Cpar=0
L6 N005 N014 150µ Rser=10m Ipk=6.5 Rser=0.355 Cpar=0
C16 N001 N002 47µ V=50 Rser=50m
R8 N002 0 0.5
* fsw=2MHz
* LT8650S - Dual Channel 42V, 4A Synchronous Step-Down Silent Switcher 2 with 6.2µA Quiescent Current\n 2MHz Step-Down Converter\nInput: 5.4V to 42V
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.tran 0 5.4m 0.6m steady startup
* 5V/1A
* 15V/2.2A
.lib LT8650S.sub
.backanno
.end
